US08372823B2
2-Cyano-6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine (98 mg, 0.24 mmol), sodium azide (31 mg, 0.48 mmol), and zinc bromide (27 mg, 0.12 mmol) were dissolved in i-PrOH/H2O (1:2, 2.1 mL) and warmed at reflux for 24 h. The reaction solution was allowed to cool to ambient temperature and was quenched with aqueous 1 N HCl. The solution was diluted with EtOAc and the organic phase was washed with saturated aqueous NaCl, dried over Na2SO4, and the solvent was removed in vacuo. The crude product was purified by tritration in 3% CH2Cl2/ether to provide 1-(5-(6-(1H-tetrazol-5-yl)pyridin-2-yl)oxazol-2-yl)-3-(4-(phenoxymethyl)phenyl)propan-1-one as a pale yellow solid (60 mg, 55%): NMR (DMSO-d6, 600 MHz) δ 8.25-8.24 (m, 3H), 8.08-8.05 (m, 1H), 7.38 (d, 2H, J=8.0 Hz), 7.31-7.27 (m, 4H), 6.99 (d, 2H, J=8.7 Hz), 6.92 (t, 1H, J=7.3 Hz), 3.47 (t, 2H, J=7.5 Hz), 3.02 (t, 2H, J=7.5 Hz); 13C NMR (DMSO-d6, 150 MHz) δ 207.8, 188.3, 159.7, 158.7, 153.0, 147.3, 141.6, 141.2, 136.2, 130.8, 129.7, 129.6, 129.2, 124.1, 123.3, 122.0, 116.1, 70.2, 32.0, 30.0; HR ESI-TOF m/z 453.1681 (M+H+, C25H20N6O3, requires 453.1670).

reactant | 2-Cyano-6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine | 0.24 mmol, 98 mg | C(#N)C1=NC(=CC=C1)C1=CN=C(O1)C(CCC1=CC=C(C=C1)COC1=CC=CC=C1)=O | C25H19N3O3
reactant | sodium azide | 0.48 mmol, 31 mg | [N-]=[N+]=[N-].[Na+]
solvent | i-PrOH H2O | 2.1 mL | CC(C)O.O
catalyst | zinc bromide | 0.12 mmol, 27 mg | [Br-].[Zn+2].[Br-]
product | 1-(5-(6-(1H-tetrazol-5-yl)pyridin-2-yl)oxazol-2-yl)-3-(4-(phenoxymethyl)phenyl)propan-1-one | 60 mg, 55% | N1N=NN=C1C1=CC=CC(=N1)C1=CN=C(O1)C(CCC1=CC=C(C=C1)COC1=CC=CC=C1)=O | C25H20N6O3
